US04816582
68 g of ethyl 2-(2-amino-4-thiazolyl)-2-[(Z)-[[(hexahydro-1H-azepin-1-yl)carbonyl]methoxy]imino]-acetate are dissolved in 2.5 l of methanol and 250 ml of water and the solution is treated with 220 ml of 1N aqueous sodium hydroxide solution. The methanol is removed under reduced pressure after 48 hours. The aqueous solution is washed with ethyl acetate and treated with 220 ml of 1N aqueous hydrochloric acid. The acid which crystallizes out is filtered off and dried. There are obtained 51 g of 2-(2-amino-4-thiazolyl)-2-[(Z)-[[(hexahydro-1H-azepin-1-yl)carbonyl]methoxy]imino]-acetic acid of melting point 178°-179° C.

reactant | ethyl 2-(2-amino-4-thiazolyl)-2-[(Z)-[[(hexahydro-1H-azepin-1-yl)carbonyl]methoxy]imino]-acetate | 68 g | NC=1SC=C(N1)/C(/C(=O)OCC)=N/OCC(=O)N1CCCCCC1 | C15H22N4O4S
reactant | water | 250 ml | O | H2O
reactant | sodium hydroxide | 1N, 220 ml | [OH-].[Na+]
solvent | methanol | 2.5 l | CO | CH4O
product | 2-(2-amino-4-thiazolyl)-2-[(Z)-[[(hexahydro-1H-azepin-1-yl)carbonyl]methoxy]imino]-acetic acid | 51 g | NC=1SC=C(N1)/C(/C(=O)O)=N/OCC(=O)N1CCCCCC1 | C13H18N4O4S
